US08802864B2
a) N-(4-Bromo-2-methylphenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide
To a solution of 2-[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetohydrazide (800 mg, 3.79 mmol) in dry dichloromethane (5 mL) was added 4-bromo-1-isocyanato-2-methylbenzene (803 mg, 3.79 mmol). The reaction was allowed to progress for 1 h at room temperature (became a thick suspension that could not be stirred). The reaction mixture was diluted with dichloromethane (10 mL) and the precipitate was collected by filtration. A second crop was obtained by filtration and the two crops were combined, rinsed with minimal dichloromethane and dried to constant weight under high vacuum to provide the title product (1.54 g, 3.64 mmol, 96% yield) as a white solid. MS(ES)+ m/e 422.9 [M+H]+. This material was 76% pure by LCMS (UV214) and was used as is in the next step.

reactant | 2-[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetohydrazide | 3.79 mmol, 800 mg | C1(CC1)C(=O)N1C[C@@H](CC1)CC(=O)NN | C10H17N3O2
reactant | 4-bromo-1-isocyanato-2-methylbenzene | 3.79 mmol, 803 mg | BrC1=CC(=C(C=C1)N=C=O)C | C8H6BrNO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(4-Bromo-2-methylphenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide | 3.64 mmol, 1.54 g, 96% yield | BrC1=CC(=C(C=C1)NC(=O)NNC(C[C@H]1CN(CC1)C(=O)C1CC1)=O)C | C18H23BrN4O3
